### PR TITLE
[Merged by Bors] - chore(Topology/PartitionOfUnity): shorten proof using ParitionOfUnity.le_one

### PR DESCRIPTION
**Pull request by dwrensha**
Replaces 11 lines of proof with a single invocation of [`ParitionOfUnity.le_one`](https://github.com/leanprover-community/mathlib4/blob/4411562e4fd2d02aa31e413bc8e948829aa3a62d/Mathlib/Topology/PartitionOfUnity.lean#L171).

I observed this (via `set_option trace.profiler true`) to lower the elaboration time of this theorem from 0.20 seconds to 0.08 seconds.

This simplification was found by [`tryAtEachStep`](https://github.com/dwrensha/tryAtEachStep).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/PartitionOfUnity.lean [hunk 1]
```diff
@@ -665,15 +665,4 @@ theorem exists_continuous_sum_one_of_isOpen_isCompact [T2Space X] [LocallyCompac
...
-    exact zero_le_one
-  rw [← Finset.sum_singleton (f ·  x) i]
-  apply le_trans _ (f.sum_le_one' x)
-  rw [finsum_eq_sum (f.toFun ·  x) (by exact toFinite (support (f.toFun · x)))]
-  simp only [Finite.toFinset_setOf, ne_eq]
-  gcongr with z hz
-  · exact fun j _ _ => f.nonneg j x
-  simp only [Finset.singleton_subset_iff, Finset.mem_filter, Finset.mem_univ, true_and]
-  exact h0
+  exact ⟨f.nonneg i x, PartitionOfUnity.le_one f i x⟩
```
Comment (dwrensha) [inline Mathlib/Topology/PartitionOfUnity.lean:668]: The type required for the second component here is `(f i) x ≤ 1`, which is exactly what `PartitionOfUnity.le_one` gives us. (No defeq shenanigans.)

**Comment by tb65536** [comment]
Wow, this `tryAtEachStep` is great!

maintainer merge

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
